US07906501B2
Step 7. 4-Chloro-5-n-propyl-1-[2′-(1H-tetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde (compound 4)
This compound was prepared using the same procedure as in Example 1.12 g of 4-chloro-5-n-propyl-1-[2′-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde (0.019 moles) and 24 mL of 4N HCl (0.095 moles) yield 5.0 g of product. Formula: C22H20ClN5O (m.w. 405.89). Yield 65%.

reactant | 4-chloro-5-n-propyl-1-[2′-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde | 0.019 moles, 1.12 g | ClC=1C=C(N(C1CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C41H34ClN5O
reactant | HCl | 0.095 moles, 4N, 24 mL, yield 5.0 g | Cl | ClH
product | 4-Chloro-5-n-propyl-1-[2′-(1H-tetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde | Yield 65% | ClC=1C=C(N(C1CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=O | C22H20ClN5O
